US07732444B2
Intermediate 49: 2-Chloro-4-(4-isobutyl-phenyl)-pyrimidine:
2,4 dichloropyrimidine was coupled with 4-isobutylphenylboronic acid following procedure A. LC-MS showed the product had the expected M+H+ of 247:

reactant | 2,4 dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 4-isobutylphenylboronic acid | C(C(C)C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | 2-Chloro-4-(4-isobutyl-phenyl)-pyrimidine | ClC1=NC=CC(=N1)C1=CC=C(C=C1)CC(C)C | C14H15ClN2
